*****************************************************************
* NXP BUK7Y19-100E
*
* Polarity N-Channel
* Ratings 100V/1.900000E-002OHMS/56.2739875032572A
*
* Date Created Fri Sep 27 04:22:15 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y19-100E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 5e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 1.58336269740926
RLS1 8 7 0.00024

RDS 7 4 10000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0109338564880661 TC=0.00566220948044667,3.73528144143724E-05
RBD 9 4 0.00084386449108982 TC=0.00566220948044667,3.73528144143724E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 100000000
CGS 2 6 2.444e-09
RG 1 2 2.08928

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	2620.2896
+ -10	2617.356
+ -8	2612.716
+ -6	2601.3328
+ -5	2583.1176
+ -4	2536.266
+ -3	2614.3856
+ -2	2275.5448
+ -1	1890.4028
+ -0.5	1643.3172
+ -0.2	1465.1812
+ -0.1	1460.0252
+ 0	1308.3886
+ 0.1	1084.8722
+ 0.2	1083.678
+ 0.5	866.23772
+ 1	707.78748
+ 2	527.98776
+ 3	435.16204
+ 4	381.7458
+ 5	344.03784
+ 6	316.22832
+ 8	277.6446
+ 10	251.48756
+ 12	231.8734
+ 15	209.94728
+ 16	203.6908
+ 20	184.6776
+ 25	167.12932
+ 30	153.94968
+ 50	122.15396



.MODEL MINT NMOS(Vto=3.63142748011019 Kp=1.912224e+002 Nfs=670000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=6.2853771818947e-13
+ N=1 M=0.63 VJ=0.51 Fc=0.5 Cjo=7.939276e-10 Tt=2.988e-08)

.ENDS

